US05457225
In an atmosphere of argon, 0.725 g (2.7 mmol) of (S)-2-[N-(3'-tert-butylsalicylidene)amino]-3-methyl-1-butanol, 2.5 ml of dichloromethane and 0.74 ml (2.45 mmol) of titanium tetraisopropoxide were placed in a schlenk tube, were stirred at room temperature over 1 hour and were cooled to -20° C. to prepare a dichloromethane solution. To the dichloromethane solution, 0.31 ml (2.45 mmol) of cinnamaldehyde and 1.0 ml (12.5 mmol) of diketene were added in this order, and were vigorously stirred at -20° C. over 48 hours. Subsequently, 0.23 ml (4.9 mmol) of isopropyl alcohol was added to the mixture and vigorously stirred at room temperature over 1 hour to give a reaction mixture. The reaction mixture was added to a mixed solution of 50 ml of 1N HCl and 50 ml of diethyl ether, and vigorously stirred at room temperature over 24 hours to give a solution. The solution was extracted with three portions of 50 ml of diethyl ether. The diethyl ether portions were combined, washed twice with 50 ml of a saturated sodium hydrogencarbonate aqueous solution, and further washed twice with 50 ml of a saturated sodium chloride aqueous solution to obtain a washed solution. To the solution, anhydrous magnesium sulfate was added to dry. The solvent of the solution was removed by distillation in vacuo to obtain a concentrated solution. The concentrated solution was placed on a silica gel column and eluted with a mixture of benzene and diethyl ether (benzene:diethyl ether=3:1) to give 0.58 g of optically active isopropyl 5-hydroxy-3-oxo-7-phenyl-6-heptenoate (yield: 86%; optical purity: 78% ee).

reactant | cinnamaldehyde | 2.45 mmol, 0.31 ml | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | diketene | 12.5 mmol, 1.0 ml | C=C1CC(=O)O1 | C4H4O2
reactant | isopropyl alcohol | 4.9 mmol, 0.23 ml | C(C)(C)O | C3H8O
reactant | HCl | 1N, 50 ml | Cl | ClH
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
catalyst | titanium tetraisopropoxide | 2.45 mmol, 0.74 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | isopropyl 5-hydroxy-3-oxo-7-phenyl-6-heptenoate | yield: 86% | OC(CC(CC(=O)OC(C)C)=O)C=CC1=CC=CC=C1 | C16H20O4
